US07915443B2
(S)-6-amino-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide
To a degassed solution containing (S)-6-amino-5-iodo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (345 mg, 0.86 mmol) in 6.0 mL DMF at room temperature was added triethylamine (0.36 mL, 2.6 mmol), trimethylsilylacetylene (0.24 mL, 1.7 mmol), dichlorobis(triphenylphosphine)palladium(II) (60 mg, 0.09 mmol), and copper(I) iodide (16 mg, 0.09 mmol). After stirring at room temperature for 1 hour, the reaction was partitioned between EtOAc and H2O. The EtOAc layer was washed with saturated NaHCO3, brine, dried with anhydrous Na2SO4 and rotary evaporated. Then added 30 mL ethyl ether to the dark oil, filtered to remove the dark precipitate. The organic extracts were concentrated and the residue was purified by chromatography (silica gel, ethyl ether/EtOAc) to the title compound as a tan foam (317 mg, 99%).

reactant | (S)-6-amino-5-iodo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.86 mmol, 345 mg | NC1=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C1I | C13H12IN3O2S
reactant | triethylamine | 2.6 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 1.7 mmol, 0.24 mL | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.09 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.09 mmol, 16 mg | [Cu]I
product | (S)-6-amino-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide | NC1=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C1C#C[Si](C)(C)C | C18H21N3O2SSi
